Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
two seizures

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo man with past medical history of TBI with resulting R
hemiparesis and refractory secondary epilepsy was transferred
from ___ for breakthrough seizures.  He initially
presented to their emergency room today after a seizure at home. 

His father heard noise that sounded like him kicking against the
door.  They called an ambulance.  The shaking seemed to have
lasted <2minutes but they couldn't view most of the seizure
because of difficulty getting the door open. After the door was
opened, we was found to be shaking his right arm and laying on
his left side.  They are unsure if he was shaking his legs. 
There was no urinary incontinence.  He was groggy afterward.  He
was then brought by ambulance to ___ where a second
generalized convulsion occurred lasting ___ minutes (different
times recorded in the records).  He was given Ativan IV 2mg at
10:05,10:10 and 10:15 after which the seizure stopped.  He was
then transferred to ___ for further management
because most of his epilepsy care is here with Dr.
___.  He missed his morning medications because of 
the
seizures.

ROS: There were no known missed doses of his medications.  HIs
mother supervises most of his doses.  There is no fever,
vomiting, or change in urination. There are no sick contacts at
home.  He did not have any alcohol last night and he had a full
night's sleep the night before.

His seizure seminologies:
1) Complex partial- right arm turning with shaking of his head. 
These mostly occurred at the onset of his seizures and the 
mother
thinks the last of this time occurred in ___ Eye blinking
3) Starring spells along which he looks pale
4) Generalized tonic clonic usually secondarily generalized from
complex partial

After most his seizures, he will be postictal for at least 12
hours and following that will have a regression in his function
for 2 weeks.  During this time, according to his mother, he will
need reteaching of all his ADLs and even needs to relearn his
favorite food.  He was admitted last at ___ in ___ because
following seizures, he still had not returned to his baseline
after a full month.  He was feeling "crackles in his brain"  He
was found during that admission on LTM to have subclinical
seizures.  He was weaned of Keppra and his Zonegram was
increased.

His last seizure was ___ where he a seizure 
after
which he hit his head in the bathroom.  He was seen at that time
in ___ where his Zonegram was increased, adding 
100mg
in the morning.  There was a CT performed of which the report is
available for review (obtained by ER) which was persistent area
of encephalomalacia in the left parietal and temporal lobes 
which
was unchanged from prior imaging.

 
Past Medical History:
In ___ the patient was in a car accident(car hydroplaned
into a fence and piece of wood was embeded into patients left
side of his head), causing hemiplegia of the right side,
Epilepsy, TBI, hyperlipidemia. 

 
Social History:
___
Family History:
Family History:  Mother ___ yo, hypercholesterolemia, htn, 
asthma.
                 Father ___ yo, hypercholetsrolemia, htn, DM. 
  No history of epilepsy

 
Physical Exam:
Gen: Patient laying in bed sleeping but arousable.  Once waking
up he asked to go to the bathroom.  He was able to sit on edge 
of
bed.  Afterwards, he was slow to follow commands trying to 
direct
him back in bed.  After a few minutes he was able to scoot
himself back up the bed.

HEENT:MMM, no adenopathy, No lacerations on tongue or lips
CV: NL S1/S2, RRR
Lungs: CTA b/l although poor inspiratory effort
Abd: soft, non-tender, normal bowel sounds 
Neuro: patient oriented to person, knows month, and date, knows
the season, can not repeat words, does not know days of the 
week,

Orientation:  He is orientated to person, and day of the week. 
He is unable to say where he is.  
Attention: He has poor attention and often stars off after
question is asked
___:  Unable to repeat.  He has poverty of speech but
when he speaks it is comprehensible.
Memory:  He is able to recall his birthdate with prompting

CN:
II: Patient does not blink to threat consistently on right side. 

Blinks to threat on left.  Pupils equally round & reactive to
light 4 mm to 2 mm. No relative afferent pupillary defect. 
III,IV,VI EOM appear intact as patient looks around room but he
does not follow finger.
V: Sensation not tested. Bite strength not tested. 
VII: Face symmetric
VIII: not tested
IX,X: Voice appears normal. Unable to see palate
XI: patient able to left shoulders and turn head side to side.
XII: Tongue protrudes midline.

Motor:Normal bulk ; no tremor, rigidity.  There is increased
tone in right arm and leg. Strength testing limited to
cooperation but patient was able to stand and was able to move
himself up the bed. He was able to turn from side to side to
reposition himself

Reflex::+3 bicep, triceps, brachioradialis, patella, and ankle
jerk, crossed adduction noted on right.  There is an 8 beat
clonus on right.  +2 on left in biceps, triceps, 
brachioradialis,
patella and ankle.  Toe is upgoing on right and downgoing on
left.   

___:   Reponds to light touch in all extremites

Gait:Did not ambulate as patient was groggy. 

 
Pertinent Results:
___ 03:45PM   WBC-7.6# RBC-4.55* HGB-15.1 HCT-44.1 MCV-97 
MCH-33.2* MCHC-34.3 RDW-12.9
___ 03:45PM   PLT COUNT-264
___ 03:45PM   NEUTS-84.2* LYMPHS-10.1* MONOS-5.2 EOS-0.5 
BASOS-0.1
___ 03:45PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 03:45PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 03:45PM   GLUCOSE-98 UREA N-6 CREAT-0.8 SODIUM-138 
POTASSIUM-4.2 CHLORIDE-104 TOTAL CO2-25 ANION GAP-13
___ 03:45PM   CALCIUM-9.5 PHOSPHATE-3.0 MAGNESIUM-2.6
___ 03:54PM   LACTATE-1.___ yo RHM with hx of TBI after a motor vehicle accident in ___ 
with refractory secondary epilepsy and right hemiparesis who 
presents with two generalized convulsions within a couple hours 
with no obvious trigger such as infection, missed doses, sleep 
deprivation, or alcohol intake.  In the past, he has been 
allergic to Dilantin and had significant cognitive slowing with 
Keppra.  He currently is on high doses of Trileptal and Zonegram 
and he will most likely need a third agent added to obtain 
better control.  He has missed his morning doses because of 
seizures and will need to have IV benzodiazepine coverage until 
a third agent is decided.  

Hospital Course:  Mr. ___ was admitted to the epilepsy 
service from ___. He was monitored on video-EEG which 
showed frequent bifrontal delta slowing but no epiletiform 
discharges.  He was initially managed with his home doses of 
zonegran (100mg qAM, 600mg qHS) and trileptal (1500mg BID) and 
placed on IV ativan.  There was no clear precipitant for Mr. 
___ seizures, given he had been compliant on medication 
and had no clear infectious cause or other provoking state.  He 
was therefore started on a third anti-epileptic agent, Keppra, 
which was slowly titrated up.  He was able to tolerate 1000mg 
BID of Keppra prior to discharge and this can be titrated up 
further outpatient if he has any further breakthrough seizures.  
He did have one one clear electrographic seizure - R posterior 
quadrant- 3.5 Hz, lasting 20 seconds without clinical change on 
___, but no other remarkable events.  He will receive a ___ 
evaluation at home and see Dr. ___ in 4 weeks for 
follow up.    

At discharge, his exam was alert and oriented.  Naming and 
comprehension continued to be slow at time, but per mother at 
baseline. PERRL. EOMI. Face with mild R facial droop. RUE ___.  
Strength, otherwise at least ___ throughout.

 
Medications on Admission:
Fluoxetine 20 mg PO Daily
Oxcarbazapine 1500 mg PO BID
Zonisamide 100 mg/600mg
Simvastatin 40 mg PO Daily

 
Discharge Medications:
1. simvastatin 40 mg Tablet Sig: One (1) Tablet PO QPM (once a 
day (in the evening)).
Disp:*30 Tablet(s)* Refills:*2*
2. oxcarbazepine 600 mg Tablet Sig: 2.5 Tablets PO BID (2 times 
a day).
Disp:*150 Tablet(s)* Refills:*2*
3. zonisamide 100 mg Capsule Sig: Six (6) Capsule PO QHS (once a 
day (at bedtime)).
Disp:*30 Capsule(s)* Refills:*2*
4. zonisamide 100 mg Capsule Sig: One (1) Capsule PO QAM (once a 
day (in the morning)).
Disp:*210 Capsule(s)* Refills:*2*
5. fluoxetine 20 mg Capsule Sig: One (1) Capsule PO QAM (once a 
day (in the morning)).
Disp:*30 Capsule(s)* Refills:*2*
6. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
7. levetiracetam 1,000 mg Tablet Sig: One (1) Tablet PO twice a 
day.
Disp:*60 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home with Service
 
Discharge Diagnosis:
TBI following a motor vehicle collision developing subsequent 
right sided hemiparesis and refractory secondary epilepsy
hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,
You were transferred to our hospital because you had two 
seizures on full doses of your medications without any missed 
doses or infection to explain the breakthrough.  Your current 
AEDs were maximized and it was decided that a third agent was 
needed to gain control of your seizures.  You were placed on LTM 
monitoring to look for subclinical seizures.  You were placed on 
Keppra and the dose was slowly increased to 1000mg twice daily.  
You should continue to take your other seizure medications 
including trileptal 1500mg twice daily and Zonegran 100mg in AM 
and 600mg at night.  

 
Followup Instructions:
___